US05576324
5-Hydroxy-8-methylcarbostyril (6.35 g, 36.3 mmol), allyl iodide (6.07 g, 36.1 mmol), n-tetrabutylammonium bromide (1.16 g, 36.1 mmol) were dissolved in dimethylformamide (108 ml). To the solution, potassium carbonate (10 g, 72.5 mmol) was added, and stirred in a bath of 50° C. for 2 hours. The solvent was evaporated, and the residue, dissolved in chloroform, was washed with water. The washed material was dried and condensed. The resultant residue was purified by silica gel column chromatography (eluent; chloroform). Recrystallization (chloroform-n-hexane) yielded 4.98 g of 5-allyloxy-8-methylcarbostyril as colorless flakes (63.8%).

reactant | 5-Hydroxy-8-methylcarbostyril | 36.3 mmol, 6.35 g | OC1=C2C=CC(NC2=C(C=C1)C)=O | C10H9NO2
reactant | allyl iodide | 36.1 mmol, 6.07 g | C(C=C)I | C3H5I
reactant | potassium carbonate | 72.5 mmol, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 108 ml | CN(C=O)C | C3H7NO
product | 5-allyloxy-8-methylcarbostyril | 4.98 g | C(C=C)OC1=C2C=CC(NC2=C(C=C1)C)=O | C13H13NO2
